US08304419B2
Step B: 3-{[3-(aminomethyl)-5,6-dibromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile
A mixture of 3-chloro-5-{[2,3-dibromo-5-(bromomethyl)-6-fluorophenyl]oxy}benzonitrile (0.185 g, 0.371 mmol) and 7M ammonia in methanol (5 mL, 35.0 mmol) in dichloromethane (5 mL) was stirred at RT overnight. The solvent was evaporated and the residue was purified by chromatography (MeOH:dichloromethane) to give the desired product (37 mg, 19.5%) as a white solid. 1H NMR (400 MHz, methanol-d4) δ ppm 7.80 (d, 1H), 7.52 (t, 1H), 7.25 (t, 1H), 7.20 (d, 1H), 3.82 (s, 2H).

reactant | 3-chloro-5-{[2,3-dibromo-5-(bromomethyl)-6-fluorophenyl]oxy}benzonitrile | 0.371 mmol, 0.185 g | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC(=C1F)CBr)Br)Br | C14H6Br3ClFNO
reactant | ammonia | 7M | N | H3N
reactant | methanol | 35.0 mmol, 5 mL | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-{[3-(aminomethyl)-5,6-dibromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 37 mg, 19.5% | NCC=1C(=C(C(=C(C1)Br)Br)OC=1C=C(C#N)C=C(C1)Cl)F | C14H8Br2ClFN2O
